US06921757B2
(6S,9S,10S,11S,13S,16R,17R)-9,11-Epoxy-6-fluoro-17-hydroxy-10,13,16-trimethyl-3-oxo-6,7,8,9,10,11,12,13,14,15,16,17-dodecahydro-3H-cyclopenta[a]phenanthrene-17-carboxylic acid (20 g) is dissolved in pyridine (50 mL) and cooled to 0° C. 3-Methylthiophene-2-carbonyl chloride (9.39 g) is added and the reaction is stirred at room temperature. After 2 hours, the reaction mixture is added dropwise to a vigorously stirred solution of 6M HCl. DCM is added, the phases are separated and the organic phase is washed with water and brine. After drying over magnesium sulphate, evaporation is followed by flash column chromatography on silica gel eluting with DCM-methanol (25:1) to afford 3-methylthiophene-2-carboxylic acid (6S,9S,10S,11S,13S,16R,17R)-9,11-epoxy-6-fluoro-17-carboxy-10,13,16-trimethyl-3-oxo-6,7,8,9,10,11,12,13,14,15,16,17-dodecahydro-3H-cyclopenta[a]phenanthren-17-yl ester. Selected 1H-NMR signals (CDCl3) δ 0.90 (3H, d), 0.95 (3H, s), 1.40 (3H, s), 2.40 (3H, s).

reactant | (6S,9S,10S,11S,13S,16R,17R)-9,11-Epoxy-6-fluoro-17-hydroxy-10,13,16-trimethyl-3-oxo-6,7,8,9,10,11,12,13,14,15,16,17-dodecahydro-3H-cyclopenta[a]phenanthrene-17-carboxylic acid | 20 g | O1[C@@]23[C@@H]1C[C@@]1([C@]([C@@H](CC1C2C[C@@H](C2=CC(C=C[C@]32C)=O)F)C)(C(=O)O)O)C | C21H25FO5
reactant | 3-Methylthiophene-2-carbonyl chloride | 9.39 g | CC1=C(SC=C1)C(=O)Cl | C6H5ClOS
reactant | HCl | 6M | Cl | ClH
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | 3-methylthiophene-2-carboxylic acid (6S,9S,10S,11S,13S,16R,17R)-9,11-epoxy-6-fluoro-17-carboxy-10,13,16-trimethyl-3-oxo-6,7,8,9,10,11,12,13,14,15,16,17-dodecahydro-3H-cyclopenta[a]phenanthren-17-yl ester | O1[C@@]23[C@@H]1C[C@@]1([C@]([C@@H](CC1C2C[C@@H](C2=CC(C=C[C@]32C)=O)F)C)(C(=O)O)OC(=O)C=3SC=CC3C)C | C27H29FO6S
